### PR TITLE
Add fibonacci identities

### PR DESCRIPTION
**Pull request by ldct**
Add some identities from [Proofs That Really Count](https://bookstore.ams.org/dol-27/)

Although the book uses combinatorial proofs, induction seemed more suited for formalization here

### CODE REVIEW

File: Sequencelib/Fibonacci.lean [hunk 1]
```diff
@@ -37,3 +37,67 @@ theorem Fibonacci_eight : Fibonacci 8 = 21 := by decide
 theorem Fibonacci_nine : Fibonacci 9 = 34 := by decide
 
 theorem Fibonacci_ten : Fibonacci 10 = 55 := by decide
+
+open Nat
+
+-- Identity 1 (page 2) from Proofs that Really Count
+example
+  (n : ℕ)
+: ∑ i ∈ Finset.range (n + 1), Fibonacci (i + 1) = Fibonacci (n + 3) - 1 := by
```
Comment (waltermoreira) [inline Sequencelib/Fibonacci.lean:46]: We are striving to follow Mathlib conventions for the naming and formatting of the statements (please, see the [contributing guidelines](https://provables.github.io/sequencelib/contributing.html) that we recently wrote). We are much more lenient in terms of proofs (as long as they type check, of course :-) ).

For example, I would write this theorem as (untested):

```lean
/--
Some descriptive comment about the theorem, that will show up in the docs.
-/
theorem sum_range_fib_eq_fib (n : ℕ) :
    ∑ i ∈ Finset.range (n + 1), Fibonacci (i + 1) = Fibonacci (n + 3) - 1 := by
  unfold Fibonacci
  ...
```

Maybe adding a reference to the book that you mention in the PR to the comment of the theorems might be useful. The other three theorems you propose could follow the same formatting.

**Review by waltermoreira — CHANGES_REQUESTED** [review]
Thank you for your contribution! Those theorems are nice examples of using these sequences.

Just some minor comments on formatting and documentation, so we can have your theorems nicely rendered in the website.

**Review by waltermoreira — CHANGES_REQUESTED** [review]
Thank you for the comments! The guidelines (https://leanprover-community.github.io/contribute/style.html) suggest to reformat the theorems as follows (I added them as suggestions, so if you agree you can just click to accept).

**Review by waltermoreira — APPROVED** [review]
Thank you!
